US09238644B2
(c) 1-(2-((Trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxamide (I12)
A solution of 1-(2-iodophenyl)cyclopropanecarboxamide (I11) (1.53 g, 85.3 mmol), ethynyltrimethylsilane (1.05 mL, 7.46 mmol), PdCl2(PPh3)2 (0.037 g, 0.053 mmol), t-Bu3PH.BF4 (0.031 g, 0.11 mmol) and copper(I) iodide (0.020 g, 0.11 mmol) in DMF (10 mL) was stirred under a nitrogen atmosphere at 50° C. for 26 hours. The volatiles were evaporated in vacuo and the resulting black residue was purified using silica gel column chromatography (CombiFlash Rf, 24 g SiO2 Cartridge, 5-20% EtOAc in cyclohexane) to give the title compound I12 as a dark yellow amorphous solid (1.09 g, 79%); 1H NMR (300 MHz, CDCl3) δ 7.52 (d, J=7.1 Hz, 1H), 7.26-7.50 (m, 3H), 5.26 (brs, 2H), 1.72 (dq, J=4.1 Hz, 2H) 1.16 (dq, J=3.9 Hz, 2H), 0.26 (s, 9H). LCMS-B: rt 7.446 min; m/z 258 [M+H]+.

reactant | 1-(2-iodophenyl)cyclopropanecarboxamide | 85.3 mmol, 1.53 g | IC1=C(C=CC=C1)C1(CC1)C(=O)N | C10H10INO
reactant | ethynyltrimethylsilane | 7.46 mmol, 1.05 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | BF4 | 0.11 mmol, 0.031 g | F[B-](F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.053 mmol, 0.037 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.11 mmol, 0.020 g | [Cu]I
product | 1-(2-((Trimethylsilyl)ethynyl)phenyl)cyclopropanecarboxamide | C[Si](C)(C)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N | C15H19NOSi
